US06380238B1
3-Chloro-4-fluoro-6-methylnitrobenzene
A solution of sodium nitrite (7.6 g, 110 mmol) in water (20 mL) was added dropwise over 30 min at 0° C. to a stirred suspension of 2-fluoro-4-methyl-5-nitroaniline (17 g, 100 mmol) in concentrated hydrochloric acid (200 mL). The mixture was stirred at 0° C. for 20 min then transferred to a dropping funnel and added dropwise over 30 min to a stirred suspension of copper(I)chloride (16 g) in concentrated hydrochloric acid (150 mL) at 0° C. The mixture was allowed to warm to room temperature and stirred for 16 h then poured onto ice-water (1.5 L) and extracted with ethyl acetate (3×). The combined organic extracts were washed with brine, dried (magnesium sulfate), concentrated in vacuo and purified by column chromatography [SiO2; heptane] to give the product (14.2 g, 75%) as a yellow solid. An analytical sample was recrystallised (heptane) to give a white solid: mp 57-58° C.; NMR δH (400 MHz, CDCl3) 8.03 (1H, d, J 7.2 Hz), 7.13 (1H, d, J 9.1 Hz), 2.6 (3H, s).

reactant | sodium nitrite | 110 mmol, 7.6 g | N(=O)[O-].[Na+]
reactant | 2-fluoro-4-methyl-5-nitroaniline | 100 mmol, 17 g | FC1=C(N)C=C(C(=C1)C)[N+](=O)[O-] | C7H7FN2O2
reactant | hydrochloric acid | 200 mL | Cl | ClH
reactant | hydrochloric acid | 150 mL | Cl | ClH
solvent | water | 20 mL | O | H2O
catalyst | copper(I)chloride | 16 g | [Cu]Cl
product | 3-Chloro-4-fluoro-6-methylnitrobenzene | 14.2 g, 75% | ClC=1C=C(C(=CC1F)C)[N+](=O)[O-] | C7H5ClFNO2
